US07851568B2
20 parts of ion-exchange water was charged into a polymerization vessel made of SUS304 equipped with a condenser, a nitrogen introduction line and a thermometer and nitrogen was introduced therein while stirred to render the inside of the polymerization vessel to nitrogen atmosphere. The polymerization vessel was heated in an oil bath until internal temperature thereof became 95° C., and thereafter a monomer solution (AB10) in which 16.8 parts of N-vinylpyrrolidone (NVP), 4.2 parts of 2-hydroxyethyl acrylate (HEA) and 16.4 parts of ion-exchange water were mixed, and an initiator solution (I10) in which 0.75 part of 4,4′-azobis-4-cyanovaleric acid (NC25: manufactured by NIPPOH CHEMICALS CO., LTD.), 0.76 part of triethanolamine (TEA) and 11.1 parts of ion-exchange water were mixed and dissolved were successively-dropped thereinto over 2 hours each. Thereafter, stirring while heated was continued for another 2 hours to obtain a polymer solution (solution of NVP/HEA copolymer, colorless and transparent, solid content of 33.3%). The physical properties of the obtained polymer solution are shown in Table 1.

reactant | N-vinylpyrrolidone | C(=C)N1C(CCC1)=O | C6H9NO
reactant | 2-hydroxyethyl acrylate | C(C=C)(=O)OCCO | C5H8O3
reactant | 4,4′-azobis-4-cyanovaleric acid | CC(CCC(=O)O)(C#N)N=NC(C)(CCC(=O)O)C#N | C12H16N4O4
reactant | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
solvent | water | O | H2O
product | NVP HEA | C(=C)N1C(CCC1)=O.C(C=C)(=O)OCCO | InChI=1S/C6H9NO.C5H8O3/c1-2-7-5-3-4-6(7)8;1-2-5(7)8-4-3-6/h2H,1,3-5H2;2,6H,1,3-4H2
